US08748434B2
d) 3-Methanesulfonyl-5-trifluoromethyl-benzoic acid
To a solution of 3-methanesulfonyl-5-trifluoromethyl-benzoic acid methyl ester (1.0 g, 3.54 mmol) in dioxane (15 mL) was added water (15 mL) and lithium hydroxide monohydrate (186 mg, 4.43 mmol). The reaction mixture was stirred at room temperature for 2 hours and then poured on 100 ml 1M aqueous hydrochloric acid and 100 mL ethyl acetate. The layers were separated and the aqueous layer was extracted a second time with 100 mL ethyl acetate. The organic layers were washed with 100 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. Colorless solid (930 mg, 98%). MS (ESI−): m/z=266.995 ([M−H]−).

reactant | 3-methanesulfonyl-5-trifluoromethyl-benzoic acid methyl ester | 3.54 mmol, 1.0 g | COC(C1=CC(=CC(=C1)C(F)(F)F)S(=O)(=O)C)=O | C10H9F3O4S
reactant | water | 15 mL | O | H2O
reactant | lithium hydroxide monohydrate | 4.43 mmol, 186 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-Methanesulfonyl-5-trifluoromethyl-benzoic acid | CS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C9H7F3O4S
